US06350721B1
First, the ionic fluid was prepared from the two starting materials: 1-ethyl-3-methylimidazolium chloride and aluminum trichloride. Both of these materials are in solid form at room temperature prior to mixture (the former is a crystalline substance; the latter, a powder). The two components were combined in about equimolar amounts (4.4 g imidazolium, F.W.=146.2; 4.0 g AlCl3, F.W.=133.34. The reaction began almost immediately with only modest shaking of the reaction vessel; within moments the product ionic liquid, 1 -ethyl-3-methylimidazolium tetrachloride, was formed, as evidenced by the transformation of all of the two solids into a pure liquid. The liquid was a greenish color, due to contaminants present in the two starting materials. Without contaminants present, the ionic liquid product should be colorless. Almost immediately upon combining the two starting materials, the pyrex reaction vessel became hot to the touch, until it could no longer be handled through ordinary laboratory disposable plastic gloves. Substantial heat was generated throughout the reaction. Again, the immediate and sustained generation of substantial heat can be exploited as a separate (or subsidiary) damage-removal mechanism.

reactant | 1-ethyl-3-methylimidazolium chloride | [Cl-].C(C)[N+]1=CN(C=C1)C
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | imidazolium | 4.4 g | [NH+]1=CNC=C1
reactant | AlCl3 | 4.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | 1 -ethyl-3-methylimidazolium tetrachloride | [Cl-].[Cl-].[Cl-].[Cl-].C(C)[N+]1=CN(C=C1)C.C(C)[N+]1=CN(C=C1)C.C(C)[N+]1=CN(C=C1)C.C(C)[N+]1=CN(C=C1)C | InChI=1S/4C6H11N2.4ClH/c4*1-3-8-5-4-7(2)6-8;;;;/h4*4-6H,3H2,1-2H3;4*1H/q4*+1;;;;/p-4
